US07351778B2
Ethyl 2-ethyl-3-hydroxybutyrate was prepared following the procedure as described in step 1) of Preparation Example 2, except for that ethyl 2-ethyl-3-oxo-butyrate was used to replace for ethyl acetoacetate. Yield 60%.

reactant | ethyl 2-ethyl-3-oxo-butyrate | C(C)C(C(=O)OCC)C(C)=O | C8H14O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | Ethyl 2-ethyl-3-hydroxybutyrate | Yield 60% | C(C)C(C(=O)OCC)C(C)O | C8H16O3
